US04424222
5,11-Dihydro-11-[[(4-methyl-1-piperazinyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride hydrate
1 g of 5,11-dihydro-11-[[(4-methyl-1-piperazinyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one was dissolved in a little ethanol and mixed with ethanolic hydrochloric acid. The mixture was concentrated greatly by evaporation and then acetone was added. The precipitate was recrystallized from ethanol. After air-drying 0.8 g of 5,11-dihydro-11-[[(4-methyl-1-piperazinyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride hydrate were obtained;

reactant | 5,11-dihydro-11-[[(4-methyl-1-piperazinyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 1 g | CN1CCN(CC1)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C18H20N6O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5,11-Dihydro-11-[[(4-methyl-1-piperazinyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride hydrate | O.Cl.CN1CCN(CC1)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C18H20N6O2.ClH.H2O/c1-22-9-11-23(12-10-22)21-18(26)24-15-7-3-2-5-13(15)17(25)20-14-6-4-8-19-16(14)24;;/h2-8H,9-12H2,1H3,(H,20,25)(H,21,26);1H;1H2
